US04966891
To a mixture of N-methylimidazole (0.8 ml) and phosphoryl chloride (0.28 ml) in acetonitrile (20 ml) was added 2',3'-di-O-benzoyl-5'-deoxy-5-fluorouridine (500 mg) obtained above at 0° C. After stirring of the reaction mixture for 1.5 hours at room temperature 28% ammonium hydroxide (2.5 ml) was added to the mixture at 0° C., and the mixture was stirred for 1 hour at room temperature. Acetonitrile and ammonia were removed under reduced pressure. The residue was acidified with 1N-HCl and then extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give 155 mg of 2',3'-di-O-benxoyl- 5'-deoxy-5-fluorocytidine, mp 192°~194° C.; MS 476 ((M+Na)+).

reactant | N-methylimidazole | 0.8 ml | CN1C=NC=C1 | C4H6N2
reactant | phosphoryl chloride | 0.28 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2',3'-di-O-benzoyl-5'-deoxy-5-fluorouridine | 500 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C)N1C(=O)NC(=O)C(=C1)F | C23H19FN2O7
reactant | ammonium hydroxide | 2.5 ml | [OH-].[NH4+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5'-deoxy-5-fluorocytidine | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)N | C9H12FN3O4
